* opamp_core unity-gain-buffer DC transfer testbench -- output swing (issue #17)
*
* Measures `design/netlist/opamp_core.spice`'s headroom-limited output
* compliance range at one (corner, temperature) point, via a unity-gain
* -buffer DC transfer sweep (`out` wired directly to `inn`, `inp` swept
* DC 0 -> VDD) -- the same real closed-loop connection
* opamp_tran_sr.spice.tmpl uses, and the standard lab method for measuring
* an amplifier's output swing (a voltage-follower DC transfer curve): while
* the loop holds (v(out) tracks v(inp) with unity slope), the amplifier is
* in its linear region; wherever the slope collapses toward zero, some
* device has left saturation and v(out) has hit its headroom limit in that
* direction. See opamp_ac.spice.tmpl's header for the included-flat-netlist
* and ibias-current-source conventions shared by all three testbenches in
* this experiment; not repeated here.
*
* bin/pvt_sweep.py parses the swept (v(inp), v(out)) pairs this testbench's
* wrdata output produces and locates the largest contiguous run around
* mid-supply where d(v(out))/d(v(inp)) stays within 0.8-1.2 of unity -- see
* ../README.md "How output swing is derived from the DC sweep" for the
* exact rule and its stated (not hidden) limitation: this is
* a combined output-swing/closed-loop-compliance measurement, not an
* independent measurement of the *open-loop* input-common-mode range DR-002
* separately estimates (out of scope for this issue; see the issue body's
* "Explicitly Out of Scope").

.option scale=1u
.param mc_mm_switch=0
.param mc_pr_switch=0
.include "/Users/rwalters/.volare/sky130A/libs.tech/ngspice/corners/ff.spice"
.include "/Users/rwalters/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice"
.include "/Users/rwalters/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice"
.temp 125.0

.include "/Users/rwalters/GitHub/sky130-opamp/.loom/worktrees/issue-17/design/netlist/opamp_core.spice"

Vdd vdd 0 dc 1.98
Vss vss 0 dc 0
Iref vdd ibias dc 5u
Rshort inn out 1m
Vinp inp 0 dc 0
Cload out 0 2p

.control
dc Vinp 0 1.98 0.0055
wrdata /var/folders/0h/l9gwswj97wb82mh27zyw305r0000gn/T/opamp-pvt-tqo5wnwd/dc_out.txt v(inp) v(out)
.endc
.end
